US08420642B2
Preparation of (5-bromo-pyridine-2-yl)-(4-methyl-thiazole-2-yl)-amine (“A1”)
1.2 (5-Bromo-pyridine-2-yl)-thiourea (1 mmol) is dissolved in DMF (2 ml) and 1-Chloro-propane-2-one (1 eq.) in DMF (2 ml) is added and stirred 2 h at 70° C. After cooling to RT the reaction solution is poured into water and the resulting precipitate is filtered, washed with water and dried 16 h in vacuo at 40° C. (5-Bromo-pyridine-2-yl)-(4-methyl-thiazole-2-yl)-amine is obtained as a colourless powder in a yield of 86%; mp. 241.5-242.6° C.; HPLC (method C): 1.55 min, 269.95 (M+H+); LC-MS (method A): 1.432 min; 1H-NMR (DMSO-d6, 400 MHz): δ [ppm] 11.314 (s, 1H), 8.363 (d, 1H, J=2.9 Hz), 7.865 (dd, 1H, J=2.9 Hz, J=8.9 Hz), 7.037 (d, 1H, J=8.9 Hz), 6.578 (s, 1H), 2.242 (s, 3H).

reactant | (5-Bromo-pyridine-2-yl)-thiourea | 1 mmol | BrC=1C=CC(=NC1)NC(=S)N | C6H6BrN3S
reactant | 1-Chloro-propane-2-one | 1 eq. | ClCC(C)=O | C3H5ClO
reactant | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (5-bromo-pyridine-2-yl)-(4-methyl-thiazole-2-yl)-amine | BrC=1C=CC(=NC1)NC=1SC=C(N1)C | C9H8BrN3S
